US04151170
A mixture of 16.3 g of isatoic anhydride (100 mmol) and 26.5 g (250 mmol) of anhydrous sodium carbonate is heated in 140 ml of hexamethylphosphoric triamide to 75°-80° C. and a solution of 10.8 ml of nitromethane (d=1.134; 200 mmol) in 50 ml of hexamethylphosphoric triamide is added dropwise in the course of one hour. The reaction mixture is stirred for 12 hours at the given temperature, allowed to cool, then poured into 400 ml of water and the resultant solution is extracted with four 200 ml portions of chloroform (in order to recover the solvent). Thereafter the aqueous layer is adjusted to a pH of 2 by adding concentrated hydrochloric acid and the product is extracted with methylene chloride (4 extracts of 150 ml). The combined extracts are washed with an aqueous solution of sodium chloride, dried over sodium sulphate, concentrated to approx. 50 ml and passed through a column of 160 g of silica gel (silica gel 60, Merck, granular size 0.063 to 0.200 mm). The eluate is concentrated and yields 6.8 g of ω-nitro-amino-acetophenone with a melting point of 110°-111° C.

reactant | isatoic anhydride | 100 mmol, 16.3 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | sodium carbonate | 250 mmol, 26.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | nitromethane | 200 mmol, 10.8 ml | [N+](=O)([O-])C | CH3NO2
reactant | water | 400 ml | O | H2O
reactant | hexamethylphosphoric triamide | 140 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
reactant | hexamethylphosphoric triamide | 50 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | ω-nitro-amino-acetophenone | 6.8 g | [N+](=O)([O-])C(C(=O)C1=CC=CC=C1)N | C8H8N2O3
